US07700331B2
Decanoic acid (1.00 g, 5.80 mmol), vanillyl alcohol (880 mg, 5.71 mmol), and Novozym 435 (25 mg) were measured and placed in a flask (25 ml), and hexane (0.5 ml) was added. The mixture in the flask free of a plug was heated with stirring in an oil bath at 50° C. for 48 hours. After 2 to 3 hours of stirring with heating, attachment of water on the wall of the upper part of the flask was observed. The flask was returned to room temperature, hexane (25 ml) was added to the reaction mixture, and Novozym 435 and a small amount of precipitated vanillyl alcohol were removed by filtration. Hexane (25 ml) was added to the filtrate, and the mixture was washed with 5% aqueous citric acid solution (25 ml) and saturated brine (25 ml), and dried over anhydrous magnesium sulfate. Magnesium sulfate was removed by filtration, and the filtrate was concentrated under reduced pressure to give a mixture (1.69 g) of vanillyl decanoate and decanoic acid as a colorless oil. As a result of the analysis, the yield of vanillyl decanoate was 93.1%. The mixture contained 2.9 wt % of decanoic acid relative to vanillyl decanoate.

reactant | Decanoic acid | 5.80 mmol, 1.00 g | C(CCCCCCCCC)(=O)O | C10H20O2
reactant | vanillyl alcohol | 5.71 mmol, 880 mg | C(C1=CC(OC)=C(O)C=C1)O | C8H10O3
reactant | water | O | H2O
solvent | hexane | 25 ml | CCCCCC | C6H14
solvent | hexane | 0.5 ml | CCCCCC | C6H14
product | vanillyl decanoate | 1.69 g | C(CCCCCCCCC)(=O)OCC1=CC(OC)=C(O)C=C1 | C18H28O4
